US05015640
starting from 2-tetrahydro-2H-pyranylmethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and benzoyl chloride, there is obtained tetrahydro-2H-pyran-2-yl N-(benzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6 carboximidate, m.p, 114.5°-117° C.;

reactant | 2-tetrahydro-2H-pyranylmethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3OCCCC3)=N | C21H24N2O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | tetrahydro-2H-pyran-2-yl N-(benzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6 carboximidate | C(C1=CC=CC=C1)(=O)N=C(OC1OCCCC1)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C27H26N2O3
